US08003681B2
In a solution of 5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazole-3-thiol (708 mg, 2.5 mmol), K2CO3 (380 mg, 2.5 mmol) in DMF (20 mL) was added 2-chloro-N-(2-chloro-4-sulfamoylphenyl)acetamide (710 mg, 2.5 mmol). The reaction mixture was stirred at room temperature overnight. Upon completion of the reaction, the solvent was evaporated. The residue was purified by silica gel chromatography to yield 2-[5-Amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-chloro-4-sulfamoylphenyl)acetamide (1.26 g, 95%).

reactant | 5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazole-3-thiol | 2.5 mmol, 708 mg | NC=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)C1CC1 | C15H14N4S
reactant | K2CO3 | 2.5 mmol, 380 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-N-(2-chloro-4-sulfamoylphenyl)acetamide | 2.5 mmol, 710 mg | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C8H8Cl2N2O3S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[5-Amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-N-(2-chloro-4-sulfamoylphenyl)acetamide | 1.26 g, 95% | NC=1N(C(=NN1)SCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl)C1=CC=C(C2=CC=CC=C12)C1CC1 | C23H21ClN6O3S2
